US04476311
PREPARATION OF 2,3-DIPHENYL-3-HYDROXYMETHYL-1-METHYL PIPERIDINE
8.3 g (0.0436 mole) of 2-phenylglutaric anhydride and 5.2 g (0.0436 mole) of Schiff base, prepared from benzaldehyde and methylamine, are refluxed at 140° in 50 ml of xylene for 12 hr. After cooling the solid is collected and washed with xylene and ether: 7.6 g of 2,3-diphenyl-1-methyl-piperdin-6-one-3-carboxylic acid, mp 268°-72° (diastereomeric mixture). A solution of 7.3 g (0.0263 mole) of the above compound in 10 ml of THF is treated with diborane generated from 7.5 g of NaBH4 in 150 ml of diglyme and 50.6 ml of BF3 -etherate in 150 ml of diglyme. After completion of the reaction 30 ml of 6N HCl are added very slowly at first. 100 ml of water are added and the THF removed in vacuo. The water solution is adjusted to pH 8-9 with 6N NaOH and extracted with methylenechloride. The gummy residue (6.3 g) is crystallized from ether: 4.2 g (62%) of title compound mp 138°-44° (very likely diastereomeric mixture).

reactant | 2-phenylglutaric anhydride | 0.0436 mole, 8.3 g | C1(=CC=CC=C1)C1C(=O)OC(CC1)=O | C11H10O3
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | methylamine | CN | CH5N
reactant | diborane | B#B | B2
reactant | NaBH4 | 7.5 g | [BH4-].[Na+]
reactant | HCl | 6N, 30 ml | Cl | ClH
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | diglyme | 150 ml | COCCOCCOC | C6H14O3
solvent | BF3 | 50.6 ml | B(F)(F)F | BF3
solvent | diglyme | 150 ml | COCCOCCOC | C6H14O3
solvent | water | 100 ml | O | H2O
product | 2,3-DIPHENYL-3-HYDROXYMETHYL-1-METHYL PIPERIDINE | C1(=CC=CC=C1)C1N(CCCC1(CO)C1=CC=CC=C1)C | C19H23NO
